US03969368
(2-phenyl-1,3-benzodioxol-2-yl)-acetamide.
To 22 g. of (2-phenyl-1,3-benzodioxol-2-yl)-acetic acid in 300 cc. of anhydrous benzene, in the cold, 18.1 g. of PCl5 are added. After leaving the mixture for 2 hours to allow the reaction to be completed a cold solution of NH3 in anhydrous ether is added to the mixture, in drops and with shaking. After 12 hours, the mixture is poured onto ice. The organic phase is separated, washed with H2O until neutral, and finally dried with Na2SO4. The solvent is removed under vacuum and the residue is recrystallised from benzene, m.p. 114°-15°C.

reactant | (2-phenyl-1,3-benzodioxol-2-yl)-acetic acid | C1(=CC=CC=C1)C1(OC2=C(O1)C=CC=C2)CC(=O)O | C15H12O4
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | PCl5 | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | NH3 | N | H3N
solvent | ether | CCOCC | C4H10O
product | (2-phenyl-1,3-benzodioxol-2-yl)-acetamide | C1(=CC=CC=C1)C1(OC2=C(O1)C=CC=C2)CC(=O)N | C15H13NO3
